US04354973
8-Chloro-6-(2-fluorophenyl)-2-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine
In one portion, 0.7 g (2.2 mmole) of 8-chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine was added to a solution of 0.3 g (2.6 mmole) of potassium t-butoxide in 30 ml of dry dimethylformamide which was cooled to 0° C. After stirring for 15 minutes 1.0 ml (16 mmole) of methyl iodide was added, and the mixture was allowed to warm to room temperature. Water was added, and the mixture was extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate, and concentrated at reduced pressure to give a yellow oil. Purification by column chromatography (silica gel, 20 g; eluent 5% ether in methylene chloride) gave a tan solid (mp 142°-144° C.). Recrystallization from a mixture of ether and petroleum ether gave cream colored prisms, mp 144°-146° C.

reactant | 8-chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine | 2.2 mmole, 0.7 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=CNC3)C=C1 | C18H12ClFN2
reactant | potassium t-butoxide | 2.6 mmole, 0.3 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 16 mmole, 1.0 ml | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 8-Chloro-6-(2-fluorophenyl)-2-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=CN(C3)C)C=C1 | C19H14ClFN2
